US04874768
In a small autoclave, 1.15 g of 1,1-diethyl-3-(2-iodo-1-propyl-6-methyl-8α-ergolinyl)urea is heated under argon for 3 hours to a bath temperature of 115° C. in 10 ml of dimethylformamide with 10 ml of triethylamine, 53.5 mg of triorthotolylphosphine, 39.4 mg of palladium(II) chloride and 1.34 ml of vinyltrimethylsilane. After evaporation, the mixture is distributed in methylene chloride/sodium bicarbonate solution. The organic phase is evaporated and chromatographed over silica gel with ethyl acetate: ethanol=3:1 as the eluent, thus obtaining 218 mg of 1,1-diethyl-3-(2-trimethylsilylvinyl-1-propyl-6-methyl-8α-ergolinyl)urea and 230 mg of 1,1-diethy-3-(2-vinyl-1-propyl-6-methyl-8α-ergolinyl)urea as oils.

reactant | 1,1-diethyl-3-(2-iodo-1-propyl-6-methyl-8α-ergolinyl)urea | 1.15 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)CCC)I)C)CC | C23H33IN4O
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | triorthotolylphosphine | 53.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | vinyltrimethylsilane | 1.34 ml | C(=C)[Si](C)(C)C | C5H12Si
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) chloride | 39.4 mg | [Pd](Cl)Cl
product | 1,1-diethy-3-(2-vinyl-1-propyl-6-methyl-8α-ergolinyl)urea | 230 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)CCC)C=C)C)CC | C25H36N4O
